US04346088
(A) 4-(4-Chloro-3-sulfamoylphenyl)-3-methyl-2-phenyliminothiazolidin-4-ol hydrobromide
A solution of 3.13 g (0.01 mole) of 2-bromo-4'-chloro-3'-sulfamoylacetophenone in 50 ml of acetone is added to a solution of 1.66 g (0.01 mole) of 3-methyl-1-phenylthiourea in 100 ml of acetone, whilst stirring with a magnetic stirrer; during this addition the reaction temperature should not rise above 30° C. After stirring for 5 hours at room temperature, the crystals are filtered off. Melting point 164° C. (with decomposition).

reactant | 2-bromo-4'-chloro-3'-sulfamoylacetophenone | 0.01 mole, 3.13 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7BrClNO3S
reactant | 3-methyl-1-phenylthiourea | 0.01 mole, 1.66 g | CNC(NC1=CC=CC=C1)=S | C8H10N2S
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-(4-Chloro-3-sulfamoylphenyl)-3-methyl-2-phenyliminothiazolidin-4-ol hydrobromide | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC1=CC=CC=C1)C)O)S(N)(=O)=O | InChI=1S/C16H16ClN3O3S2.BrH/c1-20-15(19-12-5-3-2-4-6-12)24-10-16(20,21)11-7-8-13(17)14(9-11)25(18,22)23;/h2-9,21H,10H2,1H3,(H2,18,22,23);1H
